US03947488
Triacetylmethane
Gaseous acetyl fluoride is bubbled into a suspension of 30.0 g. (0.1 mole) of the thallous salt of acetylacetone in 150 ml. of dry tetrahydrofuran, under nitrogen, at a rate of 3.0 cc./minute for a total of 30 minutes. After filtration through Celite, the solution is concentrated and the residue distilled to give 13.5 g. (96%), b.p. 90°-95°/1.0 mm.

reactant | acetylacetone | C(C)(=O)CC(C)=O | C5H8O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | Triacetylmethane | C(C)(=O)C(C(C)=O)C(C)=O | C7H10O3
